US05151436
A stirred solution of 2-(4-fluorobenzyloxyimino) -1-pyrid-3-ylcyclohexane (150 mg, 0.5 mmol) in tetrahydrofuran (2 ml) at -78° C. was treated with 1.5M butyl lithium in hexane (0.44 ml, 0.65 mmol) over 5 minutes. After 30 minutes at -78° C. the solution was treated with carbon disulphide (57 mg, 0.75 mmol) in tetrahydrofuran (0.5 ml). The temperature of the reaction mixture was then allowed to rise, over 30 minutes to 0° C., and was then treated with a solution of methyl iodide (107 mg, 0.75 mmol) in tetrahydrofuran (0.5 ml) over 10 minutes. The reaction mixture was allowed to warm to 20° C. over 30 minutes, and then concentrated in vacuo. The crude oil was dissolved in dichloromethane (10 ml) and washed successively with water (2×2 ml), and saturated brine (2 ml) then dried over magnesium sulphate. The solution was filtered then concentrated in vacuo to give an amber oil which was purified by flash chromatography over silica gel eluting with ethyl acetate to yield methyl 2-(4-fluorobenzyloxyimino)-1-pyrid-3-ylcyclohexanecarbodithioate (102 mg).

reactant | 2-(4-fluorobenzyloxyimino) -1-pyrid-3-ylcyclohexane | 0.5 mmol, 150 mg | FC1=CC=C(CON=C2C(CCCC2)C=2C=NC=CC2)C=C1 | C18H19FN2O
reactant | butyl lithium | 1.5M | C(CCC)[Li]
reactant | hexane | 0.65 mmol, 0.44 ml | CCCCCC | C6H14
reactant | carbon disulphide | 0.75 mmol, 57 mg | C(=S)=S | CS2
reactant | methyl iodide | 0.75 mmol, 107 mg | CI | CH3I
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | methyl 2-(4-fluorobenzyloxyimino)-1-pyrid-3-ylcyclohexanecarbodithioate | 102 mg | FC1=CC=C(CON=C2C(CCCC2)(C(=S)SC)C=2C=NC=CC2)C=C1 | C20H21FN2OS2
